US07375227B2
434A. 2-(Benzyl-methyl-amino)-isonicotinic acid
A mixture of 2-chloro-pyridine-4-carboxylic acid (300 mg, 1.9 mmol), benzylmethylamine (230 mg, 1.9 mmol) and triethylamine (192 mg, 1.9 mmol) is heated at 120° C. for 12 h. The residue is dissolved in CH2Cl2 (30 mL) and extracted with 1M aqueous NaOH (3×5 mL). The aqueous layer is adjusted to pH 1-2 with 12N aqueous HCl and extracted with EtOAc (6×5 mL). The organic extracts are combined, dried (MgSO4), and evaporated to provide the title compound.

reactant | 2-chloro-pyridine-4-carboxylic acid | 1.9 mmol, 300 mg | ClC1=NC=CC(=C1)C(=O)O | C6H4ClNO2
reactant | benzylmethylamine | 1.9 mmol, 230 mg | C(C1=CC=CC=C1)CN | C8H11N
reactant | triethylamine | 1.9 mmol, 192 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(Benzyl-methyl-amino)-isonicotinic acid | C(C1=CC=CC=C1)N(C=1C=C(C(=O)O)C=CN1)C | C14H14N2O2
